US07625902B2
In analogy to example 1, (S)-2-benzenesulfonylamino-3-hydroxy-propionic acid methyl ester was treated with triphenylphosphine and DEAD to give (S)-1-benzenesulfonyl-aziridine-2-carboxylic acid methyl ester.

reactant | (S)-2-benzenesulfonylamino-3-hydroxy-propionic acid methyl ester | COC([C@H](CO)NS(=O)(=O)C1=CC=CC=C1)=O | C10H13NO5S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | (S)-1-benzenesulfonyl-aziridine-2-carboxylic acid methyl ester | COC(=O)C1[N@](C1)S(=O)(=O)C1=CC=CC=C1 | C10H11NO4S
